US06716863B2
4-chloromethyl-2-[(E)-2-(4-fluorophenyl)ethenyl]-1,3-oxazole
The (E)-3-(4-fluorophenyl)-2-propenamide (17.55 g) thus obtained and 1,3-dichloroacetone (12.85 g) were molten at 130° C. and stirred for 1.5 hours. After the reaction mixture was cooled to room temperature and extracted with ethyl acetate, it was washed with ice water, saturated aqueous sodium bicarbonate, and saturated saline. After drying with anhydrous sodium sulfate, the solvent was distilled off; the residue was purified by column chromatography (eluent: diethyl ether-hexane=1:9→3:17) to yield the titled compound (10.5 g) as colorless crystals.

reactant | (E)-3-(4-fluorophenyl)-2-propenamide | 17.55 g | FC1=CC=C(C=C1)/C=C/C(=O)N | C9H8FNO
reactant | 1,3-dichloroacetone | 12.85 g | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-[(E)-2-(4-fluorophenyl)ethenyl]-1,3-oxazole | 10.5 g | ClCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)F | C12H9ClFNO
